US05081131
N-(3-(1H-imidazol-1-yl)propyl)-6-methylsulfonylbenz(cd)indol-2-amine
The reaction of molecular equivalents of 6-methylsulfonylbenz(cd)indol-2-thiol, 3-(1H-imidazol-1-yl)propanamine, mercuric acetate, and sufficient refluxing ethanol to permit stirring, by the procedure of Example 55 gives the title compound.

reactant | 6-methylsulfonylbenz(cd)indol-2-thiol | CS(=O)(=O)C=1C=2C3=C(C(=NC3=CC1)S)C=CC2 | C12H9NO2S2
reactant | 3-(1H-imidazol-1-yl)propanamine | N1(C=NC=C1)CCCN | C6H11N3
solvent | ethanol | C(C)O | C2H6O
product | N-(3-(1H-imidazol-1-yl)propyl)-6-methylsulfonylbenz(cd)indol-2-amine | N1(C=NC=C1)CCCNC1=NC2=CC=C(C=3C2=C1C=CC3)S(=O)(=O)C | C18H18N4O2S
